US06469005B1
To a mixture of 3-(4-chloro-phenyl)-prop-2-yn-1-ol (3.3 g) and toluene-4-sulfonyl chloride (3.7 g) in diethyl ether (100 ml) which is pre-cooled to −15° C. is added powdered potassium hydroxide (2.8 g) in small portions during 10 minutes. The reaction mixture is stirred at 0° C. during 90 minutes. Then water (200 ml) is added and the mixture is extracted with diethyl ether (2×100 ml) and washed with brine (50 ml). The organic layers are collected, dried (Na2SO4) and evaporated. Toluene-4-sulfonic acid 3-(4-chloro-phenyl)-prop-2-ynyl ester is obtained.

reactant | 3-(4-chloro-phenyl)-prop-2-yn-1-ol | 3.3 g | ClC1=CC=C(C=C1)C#CCO | C9H7ClO
reactant | toluene-4-sulfonyl chloride | 3.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | potassium hydroxide | 2.8 g | [OH-].[K+]
reactant | water | 200 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | Toluene-4-sulfonic acid 3-(4-chloro-phenyl)-prop-2-ynyl ester | ClC1=CC=C(C=C1)C#CCOS(=O)(=O)C1=CC=C(C=C1)C | C16H13ClO3S
